US08580859B2
The assay system is as described by Hartman M et al, 2006 Enzymatic aminoacylation of tRNA with unnatural amino acids. PNAS. 103(12):4356-4361 (the content of which is hereby incorporated by reference, particularly with respect to the experimental methods described therein). Each assay contains 40 mM Hepes (pH 7.4), 17 mM MgCl2, 45 mM KCl, 3.4 mM 2-mercaptoethanol, 6 mM ATP, 6% glycerol, 350 μM E. coli tRNA (Roche), 0.09 mg/mL BSA, 910 nM Methionyl-tRNA synthetase (MetRS) and amino acids in 100-1,000 μM range. The assay is initiated by addition of the mixture of AARS and incubated at 25-30° C. for 10 minutes. Samples are transferred to ice bath to stop the reactions and then small aliquot (2 μL) samples are precipitated using 500 μL of 5% cold TCA onto Whatmann filter papers and vacuumed and then dried under a heat lamp. Radioactivity of each sample is measured as counts per minute (CPM), as compared to controls (without the analog). Results for the S enantiomer of I-A ((S)-2-amino-4-(methylthio)butane-1-sulfonic acid hydrochloride) are shown below in Table 11.

reactant | Hepes | 40 mM, pH 7.4 | C1CN(CCN1CCO)CCS(=O)(=O)O | C8H18N2O4S
reactant | MgCl2 | 17 mM | [Mg+2].[Cl-].[Cl-]
reactant | KCl | 45 mM | [Cl-].[K+]
reactant | 2-mercaptoethanol | 3.4 mM | SCCO | C2H6OS
reactant | ATP | 6 mM | P(O)(=O)(OP(=O)(O)OP(=O)(O)O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(N)=NC=NC12)O)O | C10H16N5O13P3
solvent | glycerol | OCC(O)CO | C3H8O3
product | (S)-2-amino-4-(methylthio)butane-1-sulfonic acid hydrochloride | Cl.N[C@H](CS(=O)(=O)O)CCSC | InChI=1S/C5H13NO3S2.ClH/c1-10-3-2-5(6)4-11(7,8)9;/h5H,2-4,6H2,1H3,(H,7,8,9);1H/t5-;/m0./s1
